US06096884
Synthesis of 3-Chloro-4-(4-Chlorobutyl)-4,5-Dihydro-1,4-Benzoxazepin-5-One
5.0 g of 2,3,4,5-tetrahydro-1,4-benzoxazepine-3,5-dione was dissolved in 100 ml of acetone, 7.8 g (2 equivalents) of potassium carbonate and 6.5 ml (2 equivalents) of 1-bromo-4-chlorobutane were added, and the mixture heated and refluxed for 8 hours. The resultant mixture was allowed to cool, then filtered. The filtrate was concentrated and the residue obtained was dissolved in 50 ml of phosphorus oxychloride. Further, 20 ml of 4N hydrochloride dioxane-solution was added and the mixture stirred at 100° C. for 25 hours. The phosphorus oxychloride was distilled off and a 10% aqueous sodium hydroxide solution added under ice cooling. The mixture was extracted with methylene chloride, then was washed with a saturated aqueous solution of potassium bicarbonate and saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off and the crude product obtained was purified by silica gel column chromatograph (hexane:ethyl acetate=6:1) to obtain 4.4 g of the above-identified compound (yield 45%).

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepine-3,5-dione | 5.0 g | O1CC(NC(C2=C1C=CC=C2)=O)=O | C9H7NO3
reactant | potassium carbonate | 7.8 g, 2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 6.5 ml, 2 equivalents | BrCCCCCl | C4H8BrCl
reactant | hydrochloride dioxane | 4N, 20 ml | O1CCOCC1.Cl
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-4-(4-Chlorobutyl)-4,5-Dihydro-1,4-Benzoxazepin-5-One | 4.4 g, yield 45% | ClC1=COC2=C(C(N1CCCCCl)=O)C=CC=C2 | C13H13Cl2NO2
